US04804665
8-tert-Butyloxycarbonyl-2-[2-(hydroxy)ethyloxy]-2,8-diazaspiro[4,5]decane-1,3-dione
Employing 8-tert-butyloxycarbonyl-2-hydroxy-2,8-diazaspiro[4,5]decane-1,3-dione (0.56 g) and 2-bromoethanol (210 μl), reaction was conducted in the same manner as in Example 40 to obtain 0.40 g of a coloress solid, m.p. 97° to 98° C.

reactant | 8-tert-butyloxycarbonyl-2-hydroxy-2,8-diazaspiro[4,5]decane-1,3-dione | 0.56 g | C(C)(C)(C)OC(=O)N1CCC2(CC(N(C2=O)O)=O)CC1 | C13H20N2O5
reactant | 2-bromoethanol | 210 μl | BrCCO | C2H5BrO
product | 8-tert-Butyloxycarbonyl-2-[2-(hydroxy)ethyloxy]-2,8-diazaspiro[4,5]decane-1,3-dione | C(C)(C)(C)OC(=O)N1CCC2(CC(N(C2=O)OCCO)=O)CC1 | C15H24N2O6
